US05608135
A flask equipped with a magnetic stir bar and a water cooled condenser with an oil bubbler was charged with 1,2,4,5-tetrachlorobenzene (648 mg, 3.0 mmol), sodium tetrahydridoborate (1135 mg, 30.0 mmol), bis(η5 -cyclopentadienyl)titanium dichloride (75 mg, 0.3 mmol) and 1-methyl-2pyrrolidine (NMP; 30.0 ml). The reaction mixture was heated at 96° C. in an oil bath. After 4.25 hours, lithium chloride (1.09 g, 30.0 mmol) was added. Aliquots were withdrawn by syringe, quenched with water, and extracted with diethyl ether. The ether layer was analyzed with the results shown in the following table. Only trichlorobenzene was produced.

reactant | 1,2,4,5-tetrachlorobenzene | 3.0 mmol, 648 mg | ClC1=C(C=C(C(=C1)Cl)Cl)Cl | C6H2Cl4
reactant | sodium tetrahydridoborate | 30.0 mmol, 1135 mg | [BH4-].[Na+]
reactant | lithium chloride | 30.0 mmol, 1.09 g | [Cl-].[Li+]
catalyst | bis(η5 -cyclopentadienyl)titanium dichloride | 0.3 mmol, 75 mg | [CH-]1[C-]=[C-][C-]=[C-]1.[CH-]1[C-]=[C-][C-]=[C-]1.Cl[Ti]Cl
product | trichlorobenzene | ClC=1C(=C(C=CC1)Cl)Cl | C6H3Cl3
